US06080773
Under a nitrogen atmosphere, 758 ml of pyridine and 469 g of dicalite were added to 6 l of dry dichloromethane. In one portion 469 g of chromium trioxide were added under vigorous stirring. The resulting mixture was stirred at room temperature for 0.5 h, after which a solution of 238 g of 2-(diethoxymethyl)-α-(2-fluorophenyl)-benzenemethanol in 600 ml dry dichloromethane was added. After stirring at room temperature for 2 h, the mixture was filtered. The filtrate was washed with 3×1 l of 1N sodium hydroxide in water and 1 l of water, dried over magnesium sulphate and evaporated to dryness under reduced pressure to yield 224 g of [2-(diethoxymethyl)phenyl](2-fluorophenyl)-methanone as an oil, M.S. (C.I.) (M/Z): 303 [M+H]+.

reactant | pyridine | 758 ml | N1=CC=CC=C1 | C5H5N
reactant | dicalite | 469 g | O=[Si]=O | O2Si
reactant | 2-(diethoxymethyl)-α-(2-fluorophenyl)-benzenemethanol | 238 g | C(C)OC(C1=C(C=CC=C1)C(O)C1=C(C=CC=C1)F)OCC | C18H21FO3
solvent | chromium trioxide | 469 g | [O-2].[O-2].[O-2].[Cr+6]
solvent | dichloromethane | 600 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 6 l | ClCCl | CH2Cl2
product | [2-(diethoxymethyl)phenyl](2-fluorophenyl)-methanone | 224 g | C(C)OC(C1=C(C=CC=C1)C(=O)C1=C(C=CC=C1)F)OCC | C18H19FO3
